US06780883B2
4-Methyl-3-(3-nitro-benzoylamino)-benzoic acid methyl ester
The title compound was synthesized by the same procedure as for Example 15 except 3-nitrobenzoic acid and ethyl-4-aminobenzoate were used instead of 2-napthoic acid and 4-iodoaniline. M+315.3, mp 208-209° C.

reactant | 3-nitrobenzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1 | C7H5NO4
reactant | ethyl-4-aminobenzoate | C(C)OC(C1=CC=C(C=C1)N)=O | C9H11NO2
reactant | 2-napthoic acid | C1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | 4-iodoaniline | IC1=CC=C(N)C=C1 | C6H6IN
product | 4-Methyl-3-(3-nitro-benzoylamino)-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)C)NC(C1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C16H14N2O5
